US05077409
5-Methyl-3-[[3-[[[4-(tetradecyloxy)phenyl]amino]carbonyl]phenyl]methyl]thiazolium bromide
A mixture of 5.5 g of 3-(bromomethyl)-N-[4-(tetradecyloxy)phenyl]benzamide and 3.26 g of 5-methylthiazole in 60 ml of acetonitrile is refluxed under argon for 3 hours. The mixture is poured into 60 ml of acetonitrile and cooled to room temperature. The solid is collected, washed with ether and crystallized from acetonitrile to give 4.7 g of the desired product as a white solid, m.p. 123°-125° C.

reactant | 3-(bromomethyl)-N-[4-(tetradecyloxy)phenyl]benzamide | 5.5 g | BrCC=1C=C(C(=O)NC2=CC=C(C=C2)OCCCCCCCCCCCCCC)C=CC1 | C28H40BrNO2
reactant | 5-methylthiazole | 3.26 g | CC1=CN=CS1 | C4H5NS
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 5-Methyl-3-[[3-[[[4-(tetradecyloxy)phenyl]amino]carbonyl]phenyl]methyl]thiazolium bromide | 4.7 g | [Br-].CC1=C[N+](=CS1)CC1=CC(=CC=C1)C(=O)NC1=CC=C(C=C1)OCCCCCCCCCCCCCC | InChI=1S/C32H44N2O2S.BrH/c1-3-4-5-6-7-8-9-10-11-12-13-14-22-36-31-20-18-30(19-21-31)33-32(35)29-17-15-16-28(23-29)25-34-24-27(2)37-26-34;/h15-21,23-24,26H,3-14,22,25H2,1-2H3;1H
